US07615642B2
2-tert-Butyl-N-isobutyl-N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide
Following the same procedure in Example 1, Step A, using 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride (82 mg, 0.22 mmol), isobutyl(methyl)amine (38 mg, 0.44 mmol) and DMAP (54 mg, 0.44 mmol) in MeCN (4 mL). The crude product was purified by MPLC using Hex/EtOAc (1:1) on silica gel to give 54 mg (58% yield) of a white solid as the title compound. 1H NMR (400 MHz, METHANOL-D4) δ 0.91 (d, J=6.64 Hz, 6 H), 1.46-1.61 (m, 4 H), 1.64 (s, 9 H), 1.82-1.95 (m, 1 H), 2.25-2.45 (m, 1 H), 2.69 (s, 3 H), 2.74 (d, J=7.42 Hz, 2 H), 3.29-3.40 (m, 2 H), 3.87-4.00 (m, 2 H), 4.49 (d, J=7.42 Hz, 2 H), 7.82 (dd, J=8.69, 1.66 Hz, 1 H), 7.98 (d, J=8.79 Hz, 1 H), 8.08 (d, J=1.56 Hz, 1 H); MS (ESI) (M+H)+=422.0; Anal. Calcd for C22H35N3O3S+0.90 TFA+0.20 EtOAc (541.85): C, 54.53; H, 6.98; N, 7.75. Found: C, 54.53; H, 6.99; N, 7.77.

reactant | 2-tert-butyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonyl chloride | 0.22 mmol, 82 mg | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)Cl | C17H23ClN2O3S
reactant | isobutyl(methyl)amine | 0.44 mmol, 38 mg | C(C(C)C)NC | C5H13N
catalyst | DMAP | 0.44 mmol, 54 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeCN | 4 mL | CC#N | C2H3N
product | 2-tert-Butyl-N-isobutyl-N-methyl-1-(tetrahydro-2H-pyran-4-ylmethyl)-1H-benzimidazole-5-sulfonamide | C(C)(C)(C)C1=NC2=C(N1CC1CCOCC1)C=CC(=C2)S(=O)(=O)N(C)CC(C)C | C22H35N3O3S
